US06127398
F. 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid methyl ester
1.17 g (29.4 mmol, 1.05 equiv) sodium hydride, 60% oil dispersion, was added in one portion to a room temperature solution of 5.7 g (27.9 mmol, 1.0 equiv) 3-ethyl-1H-indazole-6-carboxylic acid methyl ester in 125 mL anhydrous DMF. After 20 minutes, 3.89 mL (36.6 mmol, 1.3 equiv) cyclopentyl bromide were added dropwise, and the reaction was mixture allowed to stir overnight at room temperature. The mixture was then poured into 1 L H2O and extracted 3×450 mL ethyl acetate. The organic extracts were combined, washed 3×400 mL H2O, 1×200 mL brine, and dried over Na2SO4. Filtration, concentration of filtrate and drying gave an amber oil, which was purified on a silica gel column (10% ethyl acetate/hexanes, gravity) to give 5.48 g (72%) of a clear oil: 1H NMR (300 MHz, CDCl3) d 8.16 (d, 1H, J=1.0 Hz), 7.7 (m, 2H), 5.00 (quintet, 1H, J=7.5 Hz), 3.97 (s, 3H), 3.01 (q, 2H, J=7.6 Hz), 2.2 (m, 4H), 2.0 (m, 2H), 1.8 (m, 2H), 1.39 (t, 3H, J=7.6 Hz); HRMS calcd for C16H20N2O2 ; 272.1526. Found: 272.15078.

reactant | sodium hydride | 29.4 mmol, 1.17 g, 1.05 equiv | [H-].[Na+]
reactant | 3-ethyl-1H-indazole-6-carboxylic acid methyl ester | 27.9 mmol, 5.7 g, 1.0 equiv | COC(=O)C1=CC=C2C(=NNC2=C1)CC | C11H12N2O2
reactant | cyclopentyl bromide | 36.6 mmol, 3.89 mL, 1.3 equiv | C1(CCCC1)Br | C5H9Br
reactant | H2O | 1 L | O | H2O
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid methyl ester | 5.48 g, 72% | COC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C16H20N2O2
